US05659059
3.0 g (20 mmol) of n-pentyl bromide was dripped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 8.8 g (20 mmol) of 4'-(4-ethoxy-4-silacyclohexyl)-2',5'-difluoro-4-trifluoromethoxybiphenyl to obtain 4'-(trans-4-n-pentyl-4-silacyclohexyl)-2',5'-difluoro-4-trifluoromethoxybiphenyl. The silacyclohexane rings of this product were a mixture of trans and cis isomers. They were separated by means of chromatography to obtain 7.5 g of the trans isomer (yield 85%).

reactant | n-pentyl bromide | 20 mmol, 3.0 g | C(CCCC)Br | C5H11Br
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4'-(4-ethoxy-4-silacyclohexyl)-2',5'-difluoro-4-trifluoromethoxybiphenyl | 20 mmol, 8.8 g | C(C)O[SiH]1CCC(CC1)C1=CC(=C(C=C1F)C1=CC=C(C=C1)OC(F)(F)F)F | C20H21F5O2Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4'-(trans-4-n-pentyl-4-silacyclohexyl)-2',5'-difluoro-4-trifluoromethoxybiphenyl | yield 85% | C(CCCC)[Si@@H]1CC[C@H](CC1)C1=CC(=C(C=C1F)C1=CC=C(C=C1)OC(F)(F)F)F | C23H27F5OSi
